* NGspice testbench for pulse shrinking cell
.param
+ sw_stat_global = 0
+ sw_stat_mismatch = 0
+ mc_skew = 3
+ res_mc_skew = 3
+ cap_mc_skew = 3
+ fnoicor = 0

.temp 25

VVSS VSS 0 0
VVDD VDD 0 3.3


.lib "/home/egor/proj/waferspace/gf180mcu-caravel-template/gf180mcu/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical

.include shrinking_tdc.pex.spice

Xshrink VSS VDD RST IN Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 shrinking_tdc

VRST RST 0 PWL 0ps 0V 580ps 0V 590ps 3.3V
VIN IN 0 PWL 0ps 3.3V 1100ps 3.3V 1110ps 0V 1610ps 0V 1620ps 3.3V 

.control
save v(IN) v(RST) v(Q0) v(Q1) v(Q2) v(Q3) v(Q4) v(Q5) v(Q6) v(Q7)
tran 5p 150n

write shrink.raw
plot v(Q0)
.endc
